US08039469B2
Preparation of (2,4-difluorophenyl)-3-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]urea
Starting from 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline (0.105 g 0.30 mmoles) and 2,4-difluorophenyl isocyanate (71 mg, 0.45 mmoles) the title compound was isolated as a white solid. Yield; 40 mg (27%); (M+H)=498.6

reactant | 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline | 0.30 mmoles, 0.105 g | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(N)C=C1 | C17H22N6O2
reactant | 2,4-difluorophenyl isocyanate | 0.45 mmoles, 71 mg | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
product | (2,4-difluorophenyl)-3-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]urea | FC1=C(C=CC(=C1)F)NC(=O)NC1=CC=C(C=C1)C1=NC(=NC(=N1)N1CCOCC1)N1CCOCC1 | C24H25F2N7O3
